US08084448B2
H. 7-Iodomethyl-6,7-dihydro-dibenzo[c,e]azepin-5-one
To a solution of methanesulfonic acid 7-oxo-6,7-dihydro-5H-dibenzo[c,e]azepin-5-ylmethyl ester in acetone (5 mL) is added NaI and the mixture is stirred at 50° C. for 18 h. The solvent is removed under reduced pressure and EtOAc is added. The solution is washed sequentially with sodium bisulfite solution, water and brine and is dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue purified by flash chromatography using a gradient of 0-100% EtOAc/hexane as eluent to give the title compound as a yellow solid.

reactant | methanesulfonic acid 7-oxo-6,7-dihydro-5H-dibenzo[c,e]azepin-5-ylmethyl ester | O=C1C2=C(C3=C(C(N1)COS(=O)(=O)C)C=CC=C3)C=CC=C2 | C16H15NO4S
reactant | NaI | [Na+].[I-]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 7-Iodomethyl-6,7-dihydro-dibenzo[c,e]azepin-5-one | ICC1C2=C(C3=C(C(N1)=O)C=CC=C3)C=CC=C2 | C15H12INO
